US08207178B2
Step C: (E)-4-(4-(4-bromo-2,6-dimethylphenoxy)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile
To a homogenous mixture of 4-(4-(4-bromo-2,6-dimethylphenoxy)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile (22.71 g, 50 mmol) in DMF (300 ml) was added tert-butoxybis(dimethylamino) methane (12.39 ml, 60 mmol) over 15 minutes. The mixture was stirred at room temperature overnight. DMF was partially removed. The residue was washed with water and extracted with ethyl acetate (×3). The organic layers were combined, washed with brine, dried (MgSO4) and concentrated to dryness yielding to the desired product as a yellow solid (23.41 g, 46.0 mmol, 92%) which was used in next step without further purification. 1H NMR (CDCl3, 400 MHz) δ2.14 (s, 6H), 2.98 (bs, 3H), 3.13 (bs, 3H), 5.54 (d, J=12.4 Hz, 1H), 7.03 (s, 1H), 7.27 (d, J=8.6, 2H), 7.28 (s, 2H), 7.40 (d, J=8.6, 2H), 8.03 (d, J=12.2 Hz, 1H).

reactant | 4-(4-(4-bromo-2,6-dimethylphenoxy)-6-methyl-5-nitropyrimidin-2-ylamino)benzonitrile | 50 mmol, 22.71 g | BrC1=CC(=C(OC2=NC(=NC(=C2[N+](=O)[O-])C)NC2=CC=C(C#N)C=C2)C(=C1)C)C | C20H16BrN5O3
reactant | tert-butoxybis(dimethylamino) methane | 60 mmol, 12.39 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | (E)-4-(4-(4-bromo-2,6-dimethylphenoxy)-6-(2-(dimethylamino)vinyl)-5-nitropyrimidin-2-ylamino)benzonitrile | 46.0 mmol, 23.41 g, 92% | BrC1=CC(=C(OC2=NC(=NC(=C2[N+](=O)[O-])\C=C\N(C)C)NC2=CC=C(C#N)C=C2)C(=C1)C)C | C23H21BrN6O3
